US04377522
4.75 g (0.014 mol) of 7-amino-9-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one are dissolved in 100 ml of dry methylene chloride and treated with 4.2 g of N-chlorosuccinamide. The reaction mixture is heated at reflux for 40 hours, treated with 25 percent aqueous ammonia and extracted several times with methylene chloride. After drying and evaporating the organic phase, the residue is chromatographed on 250 g of silica gel with methylene chloride/ethyl acetate (20:1) as the elution agent. There is obtained 7-amino-6,8,9-trichloro-1,3-dihydro-5-(o-fluorophenyl)-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one of melting point 165°-166° (ether/n-hexane).

reactant | 7-amino-9-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.014 mol, 4.75 g | NC=1C=C(C2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1)Cl | C18H17ClFN3O
reactant | N-chlorosuccinamide | 4.2 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
reactant | ammonia | N | H3N
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-amino-6,8,9-trichloro-1,3-dihydro-5-(o-fluorophenyl)-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC=1C(=C(C2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1Cl)Cl)Cl | C18H15Cl3FN3O
